US05175281
Step (B) 16α-Methylandrosta-4,9(11)-dien-3one 17β-carboxylate methyl ester
Methyl iodide (7.9 ml) is added to a solution of 16α-methylandrosta-4,9(11)-dien-3-one 17β-carboxylate (7.9 g) and diisopropylethylamine (17.5 ml) in acetonitrile (175 ml). The mixture is allowed to stand at 20°-25° for 2 hr and then a second addition of amine (9 ml) and iodide (4 ml) is made. The mixture is allowed to stand overnight at 20°-25° and then concentrated under reduced pressure. The residue is partitioned (water and methylene chloride) and the extract is concentrated and chromatographed on silica gel (750 g). Elution is performed with acetone/methylene chloride (2-5%/98-95%). The appropriate fractions are pooled and concentrated to give the title compound, m.p. 126.5° (acetone-hexane).

reactant | Methyl iodide | 7.9 ml | CI | CH3I
reactant | 16α-methylandrosta-4,9(11)-dien-3-one 17β-carboxylate | 7.9 g | C[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O)C(=O)[O-]
reactant | diisopropylethylamine | 17.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | iodide | 4 ml | [I-]
solvent | acetonitrile | 175 ml | C(C)#N | C2H3N
product | 16α-Methylandrosta-4,9(11)-dien-3one 17β-carboxylate methyl ester | COC(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O | C22H30O3
